US07902203B2
methyl 4-(benzylamino)nicotinate
The title compound is prepared from 3-carbomethoxy-4-chloropyridine and benzylamine according to the procedure of Winn, et.al. as described in J. Med. Chem., 36, 1993, 2676-2688.

reactant | 3-carbomethoxy-4-chloropyridine | C(=O)(OC)C=1C=NC=CC1Cl | C7H6ClNO2
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | methyl 4-(benzylamino)nicotinate | C(C1=CC=CC=C1)NC1=CC=NC=C1C(=O)OC | C14H14N2O2
